US08871187B2
5 g (18.6 mmol) of ethyl N-(diphenylmethylene)glycinate in solution in 20 ml of tetrahydrofuran are added to a solution of 18.7 ml (18.6 mmol) of 1N potassium tert-butoxide in 20 ml of tetrahydrofuran cooled to −70° C. After stirring for 30 minutes, this mixture is added to a solution containing 3.2 g (18.6 mmol) of 4-methoxybenzoyl chloride in 20 ml of tetrahydrofuran at −70° C. One hour after the addition, the reaction medium is hydrolysed with a 1N aqueous solution of hydrochloric acid and concentrated. The residue is taken up in water and extracted with diethyl ether. The organic phase is dried over magnesium sulphate and the solvent is then evaporated off. 5.5 g of ethyl 2-amino-3-(4-methoxyphenyl)-3-oxopropanoate hydrochloride are obtained with a quantitative yield.

reactant | ethyl N-(diphenylmethylene)glycinate | 18.6 mmol, 5 g | C1(=CC=CC=C1)C(=NCC(=O)OCC)C1=CC=CC=C1 | C17H17NO2
reactant | potassium tert-butoxide | 18.6 mmol, 1N, 18.7 ml | CC(C)([O-])C.[K+]
reactant | 4-methoxybenzoyl chloride | 18.6 mmol, 3.2 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 2-amino-3-(4-methoxyphenyl)-3-oxopropanoate hydrochloride | 5.5 g, quantitative yield | Cl.NC(C(=O)OCC)C(=O)C1=CC=C(C=C1)OC | InChI=1S/C12H15NO4.ClH/c1-3-17-12(15)10(13)11(14)8-4-6-9(16-2)7-5-8;/h4-7,10H,3,13H2,1-2H3;1H
